US05587386
N-[1-(R)-phenylethyl]-1-(1,1-ethylenedioxyethyl)-1-cyclobutanecarboxamide:
A mixture, of 13.9 g of N-[1-(R)-phenylethyl]-1-acetyl-1-cyclobutanecarboxamide, 15 ml of ethylene glycol, a catalytic amount of p-toluenesulfonic acid and 100 ml of benzene was heated under reflux for 3 hrs. The water formed in the reaction was removed using a Dean-Stark apparatus. After cooling, the mixture was washed with a saturated sodium bicarbonate aqueous solution, then washed with water and then dried. The solvent was removed under reduced pressure to yield 16.5 g of the titled compound as a colorless oil.

reactant | N-[1-(R)-phenylethyl]-1-acetyl-1-cyclobutanecarboxamide | 13.9 g | C1(=CC=CC=C1)[C@@H](C)NC(=O)C1(CCC1)C(C)=O | C15H19NO2
reactant | ethylene glycol | 15 ml | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | benzene | 100 ml | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
product | N-[1-(R)-phenylethyl]-1-(1,1-ethylenedioxyethyl)-1-cyclobutanecarboxamide | 16.5 g | C1(=CC=CC=C1)[C@@H](C)NC(=O)C1(CCC1)C1(C)OCCO1 | C17H23NO3
